US07566739B2
5f) [3,5-DIFLUORO-4-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)PHENOXY]ACETIC ACID
To a tetrahydrofuran (1 ml) solution of ethyl [3,5-difluoro-4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetate (267 mg, 0.82 mmol) and methanol (1.5 ml) was added 2 N sodium hydroxide aqueous solution (1 ml) and the mixture was stirred at 60° C. for 30 minutes. After the reaction was complete, the basic mixture was acidified with 2 N hydrochloride aqueous solution and the product was extracted with ethyl acetate which was dried over sodium sulfate. The organic layer was filtered and concentrated to give 242 mg (99% yield) of the title compound as a brown solid.

reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | ethyl [3,5-difluoro-4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetate | 0.82 mmol, 267 mg | FC=1C=C(OCC(=O)OCC)C=C(C1C(C(F)(F)F)(C)C)F | C14H15F5O3
reactant | sodium hydroxide | 2 N, 1 ml | [OH-].[Na+]
reactant | hydrochloride | 2 N | Cl | ClH
solvent | methanol | 1.5 ml | CO | CH4O
product | [3,5-DIFLUORO-4-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)PHENOXY]ACETIC ACID | 242 mg, 99% yield | FC=1C=C(OCC(=O)O)C=C(C1C(C(F)(F)F)(C)C)F | C12H11F5O3
